US08912208B2
C. 4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester
4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (1.56 g, 4.1 mmol) and (5-Bromo-pyridin-2-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine (1.28 g, 4.0 mmol) were dissolved in DME (8 mL) in a pressure vessel, and to the solution was added PdCl2dppf (100 mg, 0.12 mmol) and Na2CO3 (2.0M, 4.0 mL, 8.1 mmol). The mixture was sparged with nitrogen for 10 minutes, then the vessel was sealed and stirred at 80° C. for 18 hours. The mixture was partitioned between EtOAc and saturated aqueous NH4Cl, washed with brine, dried with magnesium sulfate, filtered, and concentrated via rotary evaporation. The crude material was purified via column chromatography on silica gel, eluting with a gradient of EtOAc/hexanes (10-50%) to obtain the target compound as a solid: 1H NMR (400 MHz, DMSO-d6) ppm 1.25 (br. s., 2 H) 1.42 (s, 9 H) 1.52 (qd, J=12.63, 4.55 Hz, 2 H) 1.77 (m, 2 H) 2.66-2.76 (m, 1 H) 4.09 (m, 2 H) 7.03 (d, J=8.59 Hz, 1 H) 7.34 (d, J=8.34 Hz, 2 H) 7.60 (d, J=8.08 Hz, 2 H) 7.79 (d, J=8.84 Hz, 1 H) 7.99 (dd, J=8.72, 2.65 Hz, 1 H) 8.56 (d, J=2.53 Hz, 1 H) 8.91 (d, J=2.53 Hz, 1 H) 9.87 (s, 1 H); MS (M+H)+ 499.3.

reactant | 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 4.1 mmol, 1.56 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H34BNO4
reactant | (5-Bromo-pyridin-2-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine | 4.0 mmol, 1.28 g | BrC=1C=CC(=NC1)NC=1C=NC(=CC1)C(F)(F)F | C11H7BrF3N3
reactant | Na2CO3 | 8.1 mmol, 2.0M, 4.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 8 mL | COCCOC | C4H10O2
product | 4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C=1C=NC(=CC1)NC=1C=NC(=CC1)C(F)(F)F | C27H29F3N4O2
